US07282588B2
Preparation of 2-[3-(4-{[(phenylamino)carbonyl]amino}phenyl)-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]acetamide
To a cooled (0° C.) solution of [3-(4-{[(phenylamino)carbonyl]amino}phenyl)-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]acetic acid (0.166 mmol) in anhydrous tetrahydrofuran (3.3 mL) was added triethylamine (0.25 mmol) and ethylchloroformate (0.18 mmol). After 30 minutes at 0° C., ammonium hydroxide (50 uL) was added and the reaction stirred at room temperature for 1 h. Concentration in vacuo followed by Gilson reverse phase HPLC furnished the title compound as a white solid (13%). ESMS [M+H]+: 452.4

reactant | [3-(4-{[(phenylamino)carbonyl]amino}phenyl)-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]acetic acid | 0.166 mmol | C1(=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC=C2)CC(=O)O | C25H20N6O3
reactant | triethylamine | 0.25 mmol | C(C)N(CC)CC | C6H15N
reactant | ethylchloroformate | 0.18 mmol | C(C)OC(=O)Cl | C3H5ClO2
reactant | ammonium hydroxide | 50 uL | [OH-].[NH4+]
solvent | tetrahydrofuran | 3.3 mL | O1CCCC1 | C4H8O
product | 2-[3-(4-{[(phenylamino)carbonyl]amino}phenyl)-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]acetamide | 13% | C1(=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC=C2)CC(=O)N | C25H21N7O2
